* Z:\mnt\design.r\spice\examples\1127.asc
V1 +V 0 15
V2 -V 0 -15
V3 IN- IN+ SINE(0 1m 100)
XU1 IN+ N005 +V -V N006 LT1126
XU2 N004 N002 +V -V OUT LT1126
XU3 IN- N003 +V -V N001 LT1126
R1 N001 N003 6.2K
R2 N003 N005 6.2K
R3 N005 N006 6.2K
R4 N002 N001 620
R5 OUT N002 10K
R6 N004 N006 620
R7 0 N004 10K
V4 IN+ 0 SINE(0 1 10)
.tran .3
* Low Noise, Wide Bandwidth Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
